US07572820B2
1-(Cyclopropylmethyl)-2-methyl-4-(trifluoromethyl)-1H-indole
Synthesized as described in Example 4 using 2-methyl-4-(trifluoromethyl)-1H-indole and (bromomethyl)cyclopropane: 1H NMR (400 MHz, CDCl3) δ 7.45 (d, J=8.2 Hz, 1H), 7.35 (d, J=8.2 Hz, 1H), 7.16 (t, J=8.2 Hz, 1H), 6.45 (s, 1H), 4.02 (d, J=6.4 Hz, 2H), 2.48 (s, 3H), 1.18 (m, 1H), 0.56 (m, 2H), 0.34 (m, 2H); MS (ES) m/z 254 (M+1).

reactant | 2-methyl-4-(trifluoromethyl)-1H-indole | CC=1NC2=CC=CC(=C2C1)C(F)(F)F | C10H8F3N
reactant | (bromomethyl)cyclopropane | BrCC1CC1 | C4H7Br
product | 1-(Cyclopropylmethyl)-2-methyl-4-(trifluoromethyl)-1H-indole | C1(CC1)CN1C(=CC2=C(C=CC=C12)C(F)(F)F)C | C14H14F3N
